US07538123B2
(12) 1-{1-[2-(7-Methoxy-3-methyl-2,4-dioxo-3,4-dihydro-2H-1,3-benzoxazin-8-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxamide
30 ml of anhydrous tetrahydrofuran was added to 408 mg of 1-(1-(2-(2-hydroxy-6-methoxy-3-((methylamino)carbonyl)phenyl)ethyl)piperidin-4-yl)-1H-indole-6-carboxamide. Thereafter, 294 mg of 1,1′-carbonyldiimidazole was added thereto. The obtained mixture was then heated to reflux under nitrogen atmosphere for 5 minutes. Thereafter, 5 ml of N,N-dimethylformamide was added to the reaction solution, and the obtained mixture was then heated to reflux under nitrogen atmosphere for 45 minutes. The reaction solution was cooled to a room temperature, and the solvent was then removed under a reduced pressure. Thereafter, 294 mg of 1,1′-carbonyldiimidazole was added to the residue. The reaction mixture was heated to reflux under nitrogen atmosphere for 30 minutes. The reaction solution was cooled to a room temperature, and the solvent was then removed under a reduced pressure. Water was added to the residue, and the precipitate was collected by filtration. The precipitate was washed with diethyl ether. It was then suspended in ethanol, and the solvent was removed under a reduced pressure. Ethyl acetate was added to the residue, followed by filtration, so as to obtain 451 mg of the subject compound.

reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | 1-(1-(2-(2-hydroxy-6-methoxy-3-((methylamino)carbonyl)phenyl)ethyl)piperidin-4-yl)-1H-indole-6-carboxamide | 408 mg | OC1=C(C(=CC=C1C(=O)NC)OC)CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)N | C25H30N4O4
reactant | 1,1′-carbonyldiimidazole | 294 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-{1-[2-(7-Methoxy-3-methyl-2,4-dioxo-3,4-dihydro-2H-1,3-benzoxazin-8-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxamide | 451 mg | COC1=C(C2=C(C(N(C(O2)=O)C)=O)C=C1)CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)N | C26H28N4O5
